US08022091B2
3-(4-Isopropyl-piperazin-1-yl)-phenol
Acetone (1.95 g) and NaBH(OAc)3 (7.12 g) were added to a solution of 3-piperazin-1-yl-phenol (2.00 g) in THF (40 ml), and the mixture was stirred at room temperature for 18 hours. Saturated aqueous sodium bicarbonate was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was dried (MgSO4) and filtered to give the titled compound (1.48 g, colorless powder).

reactant | Acetone | 1.95 g | CC(=O)C | C3H6O
reactant | NaBH(OAc)3 | 7.12 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | 3-piperazin-1-yl-phenol | 2.00 g | N1(CCNCC1)C=1C=C(C=CC1)O | C10H14N2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 3-(4-Isopropyl-piperazin-1-yl)-phenol | 1.48 g | C(C)(C)N1CCN(CC1)C=1C=C(C=CC1)O | C13H20N2O
